US07696352B2
A mixture of 2-(4-(azidomethyl)-1H-imidazol-1-yl)-5-bromopyridine (500 mg, 1.79 mmol) and iron powder (767 mg, 13.7 mmol) in EtOH (8 mL) and HOAc (6 mL) was heated at reflux for 2 h. It was filtered through celite. The filtrate was concentrated in vacuo. The residue was partitioned between 5% NaHCO3 and EtOAc. The biphasic solution was filtered. The EtOAc phase was separated, dried over Na2SO4, and concentrated in vacuo to give (1-(5-bromopyridin-2-yl)-1H-imidazol-4-yl)methanamine (253 mg).

reactant | 2-(4-(azidomethyl)-1H-imidazol-1-yl)-5-bromopyridine | 1.79 mmol, 500 mg | N(=[N+]=[N-])CC=1N=CN(C1)C1=NC=C(C=C1)Br | C9H7BrN6
solvent | EtOH | 8 mL | CCO | C2H6O
solvent | HOAc | 6 mL | CC(=O)O | C2H4O2
catalyst | iron | 13.7 mmol, 767 mg | [Fe] | Fe
product | (1-(5-bromopyridin-2-yl)-1H-imidazol-4-yl)methanamine | 253 mg | BrC=1C=CC(=NC1)N1C=NC(=C1)CN | C9H9BrN4
